US04824972
5.8 mmol of (3R,7R)-3,7,11-trimethyldodecyl bromide are heated at reflux for 1/4 hour in 20 ml of ethyl acetate with activated magnesium. Then, there are added at 0° C. 1 g of (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-epoxybutane and 0.9 g of copper(I)-2-propylacetylide (or 1.2 g of copper(I) bromide/dimethyl sulphide complex). The temperature of the reaction mixture is subsequently left to rise to room temperature and the mixture is stirred overnight. 10 ml of ammonium with ethyl ether. The extract is dried and concentrated, and the residue is distilled in a bulb-tube (b.p.0.01 =140° C.). There are obtained 1.28 g (72%) (or 1.41 g (79%) of (3R,7R,11R)-1-)2',5'-dimethoxy-3',4',6'-trimethylphenyl)-3,7,11,15-tetramethylhexadecan-3-ol as a colourless oil.

reactant | (3R,7R)-3,7,11-trimethyldodecyl bromide | 5.8 mmol | C[C@@H](CCBr)CCC[C@@H](CCCC(C)C)C | C15H31Br
reactant | magnesium | [Mg] | Mg
reactant | (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-epoxybutane | 1 g | COC1=C(C(=C(C(=C1C)C)OC)C)CC[C@]1(CO1)C | C16H24O3
reactant | ammonium | 10 ml | [NH4+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3,7,11,15-tetramethylhexadecan-3-ol | CC(CC)(CCCC(CCCC(CCCC(C)C)C)C)O | C20H42O
